data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_375219_0,[C:1]([C:2]([H:9])([H:10])[H:11])([C:4]([C:3]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([N:6]=[O:7])[H:8]>>[C:1]1([C:2]([H:9])([H:10])[H:11])([H:8])[C:4]([C:3]([H:12])([H:13])[H:14])([N:6]=[O:7])[C:5]1([H:15])[H:16],64.68207250002294
MR_184098_1,[C:1]([C:2]([N:6]([H:7])[H:13])([H:15])[H:16])([N:3]([N:4]([H:9])[H:10])[H:14])([N:5]([H:11])[H:12])[H:8]>>[C:1]([C:2]([N:6]([H:13])[H:14])([H:15])[H:16])([N:3]([N:4]([H:9])[H:10])[H:7])([N:5]([H:11])[H:12])[H:8],63.22376250003089
MR_562899_1,[C:1]([C@@:2]([C:5]([C:7](=[C:8]([H:22])[H:23])[H:15])=[O:10])([O:9][H:11])[H:12])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[N:6]([H:13])[H:14]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([C:5]([C@@:2]([C:7](=[C:8]([H:22])[H:23])[H:15])([O:9][H:11])[H:12])=[O:10])[N:6]([H:13])[H:14],51.631955000048606
MR_678343_0,[C:1]([N:4]([C:6]1([O:10][H:12])[C:2]([C:3]([H:16])([H:17])[H:18])([O:9][H:13])[N:5]1[H:15])[H:14])([O:7][H:11])=[O:8]>>[C:1]1([O:7][H:11])([O:8][H:12])[C:2]([C:3]([H:16])([H:17])[H:18])([O:9][H:13])[N:5]([H:15])[C:6](=[O:10])[N:4]1[H:14],66.33365249995506
MR_190267_0,[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])([O:6][H:9])[O:7][H:8])[H:10])(=[O:5])[H:11]>>[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])[H:10])([O:5][H:8])([O:6][H:9])[H:11],47.13654499998427
MR_427132_1,[C:1]1([N:3]([H:10])[H:11])([H:9])[N:2]([H:8])[C:4]2([H:12])[C:5]([H:13])=[N:7][N:6]12>>[C:1]1([N:3]([H:10])[H:11])([H:9])[N:2]([H:8])[C:4]([H:12])=[C:5]([H:13])[N:7]=[N:6]1,24.744834999982142
MR_288918_1,[C:1]1([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[C:3](=[O:8])[N:7]2[N:2]([H:9])[C:6]12[H:14]>>[C:1]1([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[C:3](=[O:8])[N:2]([H:9])[N:7]=[C:6]1[H:14],34.80177750002298
MR_539789_1,[C:1]([C:2]([N:6]=[O:7])([H:9])[H:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:5](=[O:8])[H:11]>>[C:1]([C:2]([C:5](=[O:8])[H:11])([H:9])[H:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[N:6][O:7],64.29929749999062
MR_614112_1,[C:1]1([O:6][H:8])([H:9])[C:3]([H:13])([H:14])[C:2]([N:4]([H:11])[H:12])([H:10])[C:5]([H:15])=[N:7]1>>[C:1]([C:3]([C:2]([N:4]([H:11])[H:12])(/[C:5](=[N:7]\[H:8])[H:15])[H:10])([H:13])[H:14])(=[O:6])[H:9],65.13575500001892
MR_263516_0,[C:1]([C:4]([N:7]([H:10])[H:11])=[O:9])(/[C:6]([C:3]([H:19])([H:20])[H:21])=[C:5](/[C:2]([H:16])([H:17])[H:18])[N:8]([H:12])[H:13])([H:14])[H:15]>>[C:1](=[C:6]([C:3]([H:19])([H:20])[H:21])[C:5]([C:2]([H:16])([H:17])[H:18])([C:4]([N:7]([H:10])[H:11])=[O:9])[N:8]([H:12])[H:13])([H:14])[H:15],68.61147749998253
MR_289946_1,[C:1](/[N:8]=[C:5](\[C:2]([H:18])([H:19])[H:20])[N:3](/[C:4]([N:7]([H:12])[H:13])=[N:9]\[H:14])[N:6]([H:10])[H:11])([H:15])([H:16])[H:17]>>[C:1]([N:8](/[C:4]([N:7]([H:12])[H:13])=[N:9]\[H:14])/[C:5]([C:2]([H:18])([H:19])[H:20])=[N:3]/[N:6]([H:10])[H:11])([H:15])([H:16])[H:17],40.73102499999848
MR_472028_2,[C:1]([C:2](=[C:3]([H:13])[H:14])[H:10])([C:4]([N:5]([H:6])[H:12])([H:9])[H:11])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:9])[H:10])(/[C:4](=[N:5]/[H:6])[H:11])([H:7])[H:8],72.78560749998412
MR_336463_1,[C:1]([C:6]([N:5]([C:3]([H:17])([H:18])[H:19])[C:4]([H:16])([H:20])[H:21])=[O:9])([N:7]([H:11])[H:12])([O:8][C:2]([H:13])([H:14])[H:15])[H:10]>>[C:1](\[C:6]([N:5]([C:3]([H:17])([H:18])[H:19])[C:4]([H:16])([H:20])[H:21])([O:8][C:2]([H:13])([H:14])[H:15])[O:9][H:12])(=[N:7]/[H:11])[H:10],44.022889999998256
MR_332566_1,[C:1]1([H:9])([H:10])[N:3]([C:2]([H:12])([H:13])[H:14])/[C:4]1=[C:6](/[N:5]([H:7])[H:8])[H:11]>>[C:1](=[C:4]1[N:3]([C:2]([H:12])([H:13])[H:14])[C:6]1([N:5]([H:7])[H:8])[H:11])([H:9])[H:10],32.80883749998964
MR_702100_2,[C:1]([N:2](/[C:4](=[N:5]\[H:9])[H:12])[H:6])([N:3]([H:7])[H:8])([H:10])[H:11]>>[C:1]([N:2]([N:3]([H:7])[H:8])[H:6])(/[C:4](=[N:5]\[H:9])[H:12])([H:10])[H:11],70.88365499998858
MR_137043_0,[C:1]([C:2]([C:5]([H:18])([H:20])[H:21])([C:6]([H:19])([H:22])[H:23])[H:11])([C:3]([H:12])([H:13])[H:14])([C:7]([C:4]([H:15])([H:16])[H:17])=[O:9])[O:8][H:10]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:7]([C:2]([C:5]([H:18])([H:20])[H:21])([C:6]([H:19])([H:22])[H:23])[H:11])=[O:9])[O:8][H:10],60.85746000001279
MR_63165_2,[C:1]([C:4]([O:5][C:2]([H:11])([H:12])[H:13])=[O:8])([O:6][C:3]([H:14])([H:15])[H:16])([O:7][H:9])[H:10]>>[C:1]([C:4]([O:5][C:2]([H:11])([H:12])[H:13])([O:6][C:3]([H:14])([H:15])[H:16])[O:8][H:9])(=[O:7])[H:10],42.94610000000603
MR_178425_0,[C:1](/[C:4]([C:3](=[C:6]([H:13])[H:14])[O:7][H:8])=[C:5](/[C:2]([H:15])([H:16])[H:17])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4]1=[C:3]([O:7][H:8])[C:6]([H:13])([H:14])[C:5]1([C:2]([H:15])([H:16])[H:17])[H:9])([H:10])([H:11])[H:12],44.974807499984735
MR_9065_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:6](=[C:5]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[H:19])[H:10])([O:7][H:8])[H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:6](/[C:5]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:7][H:8])[H:10])[H:9],57.9929225000042
